US06899886B2
Preparation of Methyl 2-(4-Chlorophenyl)-2-(2-Trifluoromethylbenzoyl)Cyanoacetate (Compound No. 30)
0.10 g (2.6 mmols) of sodium hydride was suspended in 20 ml of tetrahydrofuran. To the suspension was added dropwise, while stirring and cooling, 5 ml of a tetrahydrofuran solution in which 0.42 g (2.0 mmols) of methyl 2-(4-chlorophenyl)cyanoacetate and 0.41 g (2.6 mmols) of 2-trifluoromethylbenzoyl chloride had been dissolved. The mixture was stirred at room temperature over night. The reaction mixture was poured into ice water. The water phase thereof was acidified by diluted hydrochloric acid and twice extracted with 30 ml of ethyl acetate. The ethyl acetate extraction solutions were mixed, washed with a saturated brine solution, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The residue thus-obtained was purified by silica gel column chromatography (n-hexane:benzene=1:1), giving 0.45 g of the desired product (yield 59%).

reactant | sodium hydride | 2.6 mmols, 0.10 g | [H-].[Na+]
reactant | methyl 2-(4-chlorophenyl)cyanoacetate | 2.0 mmols, 0.42 g | ClC1=CC=C(C=C1)C(C(=O)OC)C#N | C10H8ClNO2
reactant | 2-trifluoromethylbenzoyl chloride | 2.6 mmols, 0.41 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Methyl 2-(4-Chlorophenyl)-2-(2-Trifluoromethylbenzoyl)Cyanoacetate | 0.45 g, yield 59% | ClC1=CC=C(C=C1)C(C(=O)OC)(C(C1=C(C=CC=C1)C(F)(F)F)=O)C#N | C18H11ClF3NO3
